US07786108B2
Synthesis of (S)-(4-{5-[(3,5-Bis-trifluoromethyl-benzyl)-(2-methyl-2H-tetrazol-5-yl)-amino]-7-methyl-8-trifluoromethyl-2,3,4,5-tetrahydro-benzo[b]azepin-1-ylmethyl}-piperidin-1-yl)-acetic acid
To a solution of (S)-(4-{5-[(3,5-Bis-trifluoromethyl-benzyl)-(2-methyl-2H-tetrazol-5-yl)-amino]-7-methyl-8-trifluoromethyl-2,3,4,5-tetrahydro-benzo[b]azepin-1-ylmethyl}-piperidin-1-yl)-acetic acid ethyl ester (0.11 mmol) in methanol (5 mL), add 5.0 N sodium hydroxide (2 mL). After heating at 60° C. for 6 h cool to room temperature and dilute with water (20 mL). Extract the organics with ethyl acetate (3×10 mL). Dry the combined organic phases over sodium sulfate, filter, and remove solvent under vacuum, to afford the title compound as a colorless foam. MS (ES+): 708 (M+H).

reactant | (S)-(4-{5-[(3,5-Bis-trifluoromethyl-benzyl)-(2-methyl-2H-tetrazol-5-yl)-amino]-7-methyl-8-trifluoromethyl-2,3,4,5-tetrahydro-benzo[b]azepin-1-ylmethyl}-piperidin-1-yl)-acetic acid ethyl ester | 0.11 mmol | C(C)OC(CN1CCC(CC1)CN1C2=C([C@H](CCC1)N(C=1N=NN(N1)C)CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)C=C(C(=C2)C(F)(F)F)C)=O | C33H38F9N7O2
reactant | sodium hydroxide | 5.0 N, 2 mL | [OH-].[Na+]
solvent | methanol | 5 mL | CO | CH4O
solvent | water | 20 mL | O | H2O
product | (S)-(4-{5-[(3,5-Bis-trifluoromethyl-benzyl)-(2-methyl-2H-tetrazol-5-yl)-amino]-7-methyl-8-trifluoromethyl-2,3,4,5-tetrahydro-benzo[b]azepin-1-ylmethyl}-piperidin-1-yl)-acetic acid | FC(C=1C=C(CN([C@@H]2C3=C(N(CCC2)CC2CCN(CC2)CC(=O)O)C=C(C(=C3)C)C(F)(F)F)C=3N=NN(N3)C)C=C(C1)C(F)(F)F)(F)F | C31H34F9N7O2
